US05492914
A solution of crotonaldehyde (72.74 g, 1.04 mol) in 500 mL of pyridine was added to 1,3-cyclohexanedione (100 g, 0.892 mol) in 500 mL of pyridine and the mixture was heated to reflux under a nitrogen atmosphere for 1 hour. The mixture was cooled to room temperature and then filtered through magnesium sulfate (328 g). The filtrate was concentrated to dryness and the residue was partitioned between water and diethyl ether. The aqueous phase was extracted with diethyl ether and the combined diethyl ether layers were washed with 10% hydrochloric acid (3×150 mL). The diethyl ether layer was then washed with water to neutrality, dried (MgSO4), filtered and the filtrate concentrated to dryness. The residue was purified by Kugelrohr distillation (bp 109°-112° C. (1 to 2 mm)) to give 2-methyl-5,6,7,8-tetrahydro-2H-1-benzopyran-5-one (48.2 g, 0.294 mol) as an oil.

reactant | crotonaldehyde | 1.04 mol, 72.74 g | C(\C=C\C)=O | C4H6O
reactant | 1,3-cyclohexanedione | 0.892 mol, 100 g | C1(CC(CCC1)=O)=O | C6H8O2
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 2-methyl-5,6,7,8-tetrahydro-2H-1-benzopyran-5-one | 0.294 mol, 48.2 g | CC1OC2=C(C=C1)C(CCC2)=O | C10H12O2
